
.lib /home/paul/.volare/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include "dly_1_extracted.cir"

* Instantiate the extracted subcircuit
X1 VPWR Y1 VPWR O11 O12 VCTRL O81 VBIAS IN1 GND GND dly_1
X2 VPWR Y2 VPWR O21 O22 VCTRL O12 VBIAS O11 GND GND dly_1
X3 VPWR Y3 VPWR O31 O32 VCTRL O22 VBIAS O21 GND GND dly_1
X4 VPWR Y4 VPWR O41 O42 VCTRL O32 VBIAS O31 GND GND dly_1
X5 VPWR Y5 VPWR O51 O52 VCTRL O42 VBIAS O41 GND GND dly_1
X6 VPWR Y6 VPWR O61 O62 VCTRL O52 VBIAS O51 GND GND dly_1
X7 VPWR Y7 VPWR O71 O72 VCTRL O62 VBIAS O61 GND GND dly_1
X8 VPWR Y8 VPWR O81 O82 VCTRL O72 VBIAS O71 GND GND dly_1


X99 OUT1 O82 VPWR  VPWR sky130_fd_pr__pfet_01v8 L=0.15 W=0.66 AS=0.2112 AD=0.1089 PS=1.96 PD=0.99
X98 OUT1 O82 GND   GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=0.74 AS=0.2183 AD=0.1887 PS=2.07 PD=1.99

* Simulation sources
V1 VPWR GND 1.8
V4 IN1 GND PULSE(0 1.8 1ns 10ps 10ps 5ns 10ns)
V5 IN2 GND PULSE(1.8 0 1ns 10ps 10ps 5ns 10ns)
V2 VBIAS GND 1.75
V3 VCTRL GND 0.8
#V6 sky130_gnd GND 0

* Simulation commands
.tran 0.02n 200n
.control
run
plot v(IN1) v(O41) v(O61) v(O42) v(OUT1) v(VCTRL) v(VBIAS) v(Y1)
.endc
.end
